US08685969B2
To a solution of 7-acetyl-3-methyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (51 mg, 0.102 mmol) in tetrahydrofuran (10.0 mL) at 0° C. was added methylmagnesium bromide (3 M in diethyl ether, 0.169 mL, 0.508 mmol). The mixture was stirred for 30 min. HPLC analysis indicated that there was still a significant amount of starting material remaining. Additional methylmagnesium bromide (0.10 mL) was added, and the reaction mixture was stirred for an additional 30 min. at 0° C. The reaction was slowly quenched with water and extracted with ethyl acetate (3×). The organic layers were combined, washed with brine, and dried over anhydrous sodium sulfate. Concentration under reduced pressure followed by purification by flash silica gel chromatography using a mixture ethyl acetate and hexane (50%-62%-75%-88%-100%) and reverse phase preparative HPLC afforded 7-(2-hydroxypropan-2-yl)-3-methyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (24% yield) as an off-white solid and as a mixture of atropisomers. LC/MS M+1=518.2. 1H NMR (500 MHz, MeOD) δ 8.42-8.38 (m, 1H), 8.33 (dt, J=8.0, 1.7 Hz, 1H), 7.93-7.87 (m, 1H), 7.83-7.77 (m, 2H), 7.70-7.59 (m, 3H), 7.53-7.44 (m, 1H), 7.25-7.15 (m, 1H), 7.06 (d, J=8.6 Hz, 0.6H), 6.81 (d, J=8.3 Hz, 0.4H), 2.51-2.46 (m, 3H), 1.81-1.78 (m, 3H), and 1.62-1.56 (m, 6H).

reactant | 7-acetyl-3-methyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.102 mmol, 51 mg | C(C)(=O)C1=CC=C2C3=C(NC2=C1)C(=NC(=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C)C(=O)N | C30H23N5O3
reactant | methylmagnesium bromide | 0.508 mmol, 3 M, 0.169 mL | C[Mg]Br
reactant | methylmagnesium bromide | 0.10 mL | C[Mg]Br
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
product | 7-(2-hydroxypropan-2-yl)-3-methyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 24% yield | OC(C)(C)C1=CC=C2C3=C(NC2=C1)C(=NC(=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C)C(=O)N | C31H27N5O3
